US05169916
2-Methyl-2-silaindan
In a 1 L rb flask equipped with a Teflon covered magnetic stirring bar and a reflux condenser was placed potassium tert-butoxide (36 g; 0.32 mol), o-xylene (17 mL; 0.15 mol) and 700 mL of hexanes. n-Butyllithium (128 mL; 2.5M) in hexane was added to the above mixture via a syringe. The red color of the o-xylene dianion appeared. The resulting mixture was heated to reflux for 1 h. The reaction mixture was cooled to room temp. The suspension of the dianion was transferred via a cannula to a sintered glass filter. The solvent was removed by suction filtration. The precipitated dianion was rinsed with fresh hexane. It was then resuspended in 500 mL of hexane and the suspension returned via a cannula to the original apparatus. Freshly distilled dichloromethylsilane (17 mL; 0.16 mol) was added. The mixture was stirred overnight a room temperature. 50 mL water was added. The organic layer was washed three times with water, dried over anhydrous calcium chloride, filtered and the solvents removed by evaporation under reduced pressure. The residue was purified by fractional distillation through a 15 cm vacuum jacketed Vigreux column. A central fraction, b.p. 43°-44° C./0.7 mmHg, was obtained. Yield: 5.5 g(25%).

reactant | potassium tert-butoxide | 0.32 mol, 36 g | CC(C)([O-])C.[K+]
reactant | o-xylene | 0.15 mol, 17 mL | CC=1C=CC=CC1C | C8H10
reactant | n-Butyllithium | 2.5M, 128 mL | C(CCC)[Li]
reactant | dichloromethylsilane | 0.16 mol, 17 mL | ClC(Cl)[SiH3] | CH4Cl2Si
solvent | hexane | CCCCCC | C6H14
solvent | water | 50 mL | O | H2O
product | 2-Methyl-2-silaindan | C[SiH]1CC2=CC=CC=C2C1 | C9H12Si
